US06936602B1
In a mixture of water:ethanol toluene (1:1:10, v/v. 42.0 ml) were dissolved 4-propoxyphenyl borate (746 mg) and methyl 7-bromo-1-(t-butoxycarbonyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1320 mg). To the solution was added potassium carbonate (1145 mg), and the mixture was stirred under argon atmosphere at room temperature for 30 minutes. To the mixture was added tetrakistriphenylphosphinepalladium (160 mg), and the mixture was heated to reflux under argon atmosphere for 14.5 hours. The mixture was diluted with ethyl acetate, and washed with water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (75 g, hexane:ethyl acetate=3:1) to give methyl 1-(t-butoxycarbonyl)-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate as yellow amorphous. The obtained methyl 1-(t-butoxycarbonyl)-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate was dissolved in ethyl acetate (80 ml). To the solution was added 6N hydrochloric acid (20 ml) at room temperature, and the mixture was stirred at 100° C. for 30 minutes and neutralized with 1N sodium hydroxide and saturated sodium hydrogen carbonate solution. The separated organic layer was washed with saturated sodium hydrogen carbonate solution, water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crystals, which were washed with ethyl acetate/hexane to give methyl 7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (947 mg) as yellow crystals. The mother liquor was concentrated, and the residue was purified with silica gel column chromatography (15 g, hexane:ethyl acetate=4:1) to give desired product (147 mg).

reactant | methyl 1-(t-butoxycarbonyl)-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | C(C)(C)(C)OC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCC)C(=O)OC | C26H31NO5
reactant | hydrochloric acid | 6N, 20 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | methyl 7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 947 mg | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C21H23NO3
